US07514448B2
Methyl 2-(3-chlorosulfonylphenyl)acetate:
Methyl 2-(3-mercaptophenyl)acetate (0.55 g, 3.0 mmol) was dissolved in 10 mL acetonitrile and potassium nitrate (0.76 g, 7.5 mmol) was added and the reaction mixture cooled to 0° C. To this suspension sulfuryl chloride was added (0.6 mL, 7.5 mmol) at 0° C. and the reaction mixture was let warm to room temperature and stirred overnight. A solution of saturated sodium bicarbonate was added followed by ethyl acetate (100 mL each). The organic layer was washed with brine, dried over sodium sulfate and concentrated to an oil 0.59 g, 2.4 mmol, 79% yield. 1H NMR 500 MHz (CDCl3) 7.91 ppm, 2H, m; 7.60 ppm, 1H, d; 7.53 ppm, 1H, t; 3.73 ppm, 2H, s; 3.72 ppm, 3H, s.

reactant | Methyl 2-(3-mercaptophenyl)acetate | 3.0 mmol, 0.55 g | SC=1C=C(C=CC1)CC(=O)OC | C9H10O2S
reactant | potassium nitrate | 7.5 mmol, 0.76 g | [N+](=O)([O-])[O-].[K+]
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(3-chlorosulfonylphenyl)acetate | 2.4 mmol, 0.59 g, 79% yield | ClS(=O)(=O)C=1C=C(C=CC1)CC(=O)OC | C9H9ClO4S
